US05246915
22.4 g of pulverized potassium hydroxide and 0.1 g of 18-dibenzocrown-6 are added portionwise to a solution of 25 g of 4-chloroindanone and 56.7 g of methyl iodide in 120 ml of dimethylformamide in such a manner that the temperature is kept below +70° C. When the exothermic reaction is over, 5.6 g of methyl iodide are added and the mixture is agitated for another 0.5 hours. 200 ml of cold water are added and the mixture is extracted with diethyl ether. The organic phase is dried, with sodium sulfate and concentrated to dryness, affording 27.4 g of crude 2,2-dimethyl-4-chloro-indanone. This crude product is directly subjected to the Leuckart-Wallach amine preparation as described in "Organic Reactions vol. 5, page 301ff, John Wiley & Sons, New York 1949", yielding pure 1-amino-4-chloro-2,2-dimethyl-indane.

reactant | potassium hydroxide | 22.4 g | [OH-].[K+]
reactant | 4-chloroindanone | 25 g | ClC1=C2CCC(C2=CC=C1)=O | C9H7ClO
reactant | methyl iodide | 56.7 g | CI | CH3I
reactant | methyl iodide | 5.6 g | CI | CH3I
reactant | water | 200 ml | O | H2O
reactant | dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
product | 2,2-dimethyl-4-chloro-indanone | 27.4 g | CC1(C(C2=CC=CC(=C2C1)Cl)=O)C | C11H11ClO
